US04978386
2-(3-Trifluoromethylphenyl)-3-Allylamino-5-Phenyl-2-Cyclopentenone
One gram of sodium hydroxide in 4.0 ml of water is added to a mixture of 4.0 g of 2-(3-trifluoromethylphenyl)-3-amino-5-phenyl-2-cyclopentenone in 80 ml of methylene chloride at room temperature followed by the addition of 1.46 g of allyl bromide and 0.27 g of benzyltriethylammonium chloride. The resulting two-phase mixture is stirred at room temperature until the reaction is completed. The reaction mixture is washed three times with water, dried over magnesium sulfate and concentrated in vacuo. The residue is typically purified by chromatography to yield the title compound.

reactant | sodium hydroxide | One gram | [OH-].[Na+]
reactant | 2-(3-trifluoromethylphenyl)-3-amino-5-phenyl-2-cyclopentenone | 4.0 g | FC(C=1C=C(C=CC1)C=1C(C(CC1N)C1=CC=CC=C1)=O)(F)F | C18H14F3NO
reactant | allyl bromide | 1.46 g | C(C=C)Br | C3H5Br
solvent | water | 4.0 ml | O | H2O
solvent | methylene chloride | 80 ml | C(Cl)Cl | CH2Cl2
catalyst | benzyltriethylammonium chloride | 0.27 g | [Cl-].C(C1=CC=CC=C1)[N+](CC)(CC)CC
product | 2-(3-Trifluoromethylphenyl)-3-Allylamino-5-Phenyl-2-Cyclopentenone | FC(C=1C=C(C=CC1)C=1C(C(CC1NCC=C)C1=CC=CC=C1)=O)(F)F | C21H18F3NO
